US07795441B2
Preparation of 1-{6-[1-(2-chloro-4,6-dimethylphenylimino)ethyl]pyridin-2-yl}ethanone
2.00 g (0.0059 mol) of [1-(6-bromopyridin-2-yl)ethylidene](2-chloro-4,6-dimethylphenyl)amine were dissolved in 25 ml of diethyl ether and cooled to −70° C. 3.70 ml (0.0059 mol) of a 1.6 M solution of butyllithium in hexane were added dropwise over a period of 15 minutes. The temperature rose to −40° C. and the mixture was stirred for another 30 minutes. The mixture was cooled to −70° C. and 0.52 g (0.0059 mol) of N,N-dimethylacetamide was added dropwise and the mixture was stirred at room temperature for another three hours. The reaction mixture was stirred with 5 ml of a saturated ammonium chloride solution. The aqueous phase was extracted twice with diethyl ether. The combined organic phases were dried over Na2SO4, filtered and the solvent was distilled off under reduced pressure. This gave 0.83 g (0.0028 mol) of the product in a yield of 47%.

reactant | [1-(6-bromopyridin-2-yl)ethylidene](2-chloro-4,6-dimethylphenyl)amine | 0.0059 mol, 2.00 g | BrC1=CC=CC(=N1)C(C)=NC1=C(C=C(C=C1C)C)Cl | C15H14BrClN2
reactant | butyllithium | C(CCC)[Li]
reactant | N,N-dimethylacetamide | 0.0059 mol, 0.52 g | CN(C(C)=O)C | C4H9NO
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 1-{6-[1-(2-chloro-4,6-dimethylphenylimino)ethyl]pyridin-2-yl}ethanone | yield of 47% | ClC1=C(C(=CC(=C1)C)C)N=C(C)C1=CC=CC(=N1)C(C)=O | C17H17ClN2O
